US06297250B1
2,6-Diethoxy-4,8-dipiperidinopyrimidopyrimidine (NU3068)
Sodium metal (0.115 g, 5 mmol) was added to ethanol (0.23 g, 5 mmol) in dry THF (5 ml) and stirred until all had dissolved. Then, 2,6-dichloro-4,8-dipiperidinopyrimidopyrimidine (0.184 g, 0.5 mmol) dissolved in dry THF (10 ml) was added to the alkoxide and the mixture was heated under reflux for 18 hours. After cooling to room temperature water (20 ml) was added and the product extracted into ethyl acetate (4×20 ml). The organic layers were combined, dried (MgSO4), filtered and the solvent removed in vacuo. Recrystallisation from methanol/water yielded the title compound as an orange crystalline solid (0.167 g, 84%), m.p. 142-143° C. Found: C, 62.11; H, 7.81; N, 21.34. C20H30N6O2 requires C, 62.15; H, 7.82; N, 21.74%.

reactant | Sodium | 5 mmol, 0.115 g | [Na] | Na
reactant | ethanol | 5 mmol, 0.23 g | C(C)O | C2H6O
reactant | 2,6-dichloro-4,8-dipiperidinopyrimidopyrimidine | 0.5 mmol, 0.184 g | ClC=1N=C(C2=C(C(=NC(=N2)Cl)N2CCCCC2)N1)N1CCCCC1 | C16H20Cl2N6
reactant | water | 20 ml | O | H2O
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | THF | 10 ml | C1CCOC1 | C4H8O
product | 2,6-Diethoxy-4,8-dipiperidinopyrimidopyrimidine | 0.167 g, 84% | C(C)OC=1N=C(C2=C(C(=NC(=N2)OCC)N2CCCCC2)N1)N1CCCCC1 | C20H30N6O2
